US04329339
A solution of 100 mg of sulfurmycin A in 20 ml of 0.1 N hydrochloric acid was heated at 90° C. for 60 minutes. The mixture was cooled and extracted with 40 ml of ethyl acetate. The ethyl acetate layer obtained was dehydrated over sodium sulphate and concentrated in vacuo to give 45 mg. of a yellow powder. Crystallisation from n-hexane/chloroform gave 32 mg of sulfurmycinone (yellow needles).

reactant | sulfurmycin A | 100 mg | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@]([C@@H](C3=C2C(=C4C(=C3)C(=O)C5=C(C4=O)C(=CC=C5)O)O)C(=O)OC)(CC(=O)C)O)N(C)C)O[C@H]6C[C@@H]([C@@H]([C@@H](O6)C)O[C@H]7CCC(=O)[C@@H](O7)C)O | C43H53NO16
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | hydrochloric acid | 0.1 N, 20 ml | Cl | ClH
product | sulfurmycinone | 32 mg | CC(=O)C[C@]1(C[C@@H](C2=C([C@H]1C(=O)OC)C=C3C(=C2O)C(=O)C4=C(C3=O)C=CC=C4O)O)O | C23H20O9
